US06900244B2
Step 1 Ethyl N-(4-chlorobenzyl)-N-phenylglycinate
N-phenylglycine ethyl ester (781 mg, 4.3 mmol), 4-chlorobenzyl chloride (690 mg, 4.3 mmol) and sodium iodide (64 mg) were dissolved in toluene (7 mL) under argon. The reaction was heated in a graphite bath at 80° C. for 24 h. After cooling to room temperature, the reaction was diluted with ethyl acetate and washed with 1M HCl followed by brine. The solution was dried over MgSO4, filtered, and concentrated in vacuo. Purification of the resultant oil by flash chromatography (10:1 hexanes/EtOAc) afforded the title compound as a green oil (669 mg, 51%). MS (ES+) m/z 304 (MH+).

reactant | N-phenylglycine ethyl ester | 4.3 mmol, 781 mg | C(C)OC(CNC1=CC=CC=C1)=O | C10H13NO2
reactant | 4-chlorobenzyl chloride | 4.3 mmol, 690 mg | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | sodium iodide | 64 mg | [I-].[Na+]
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl N-(4-chlorobenzyl)-N-phenylglycinate | 669 mg, 51% | ClC1=CC=C(CN(CC(=O)OCC)C2=CC=CC=C2)C=C1 | C17H18ClNO2
